US08421346B2
Step 2: Synthesis Method of 9-Phenyl-10-{4-(9-phenyl-9H-fluoren-9-yl)-biphenyl-4′-yl}-anthracene (abbreviation: FLPPA)
The Rf value of the obtained pale yellow powder by silica gel thin layer chromatography (TLC) (with a developing solvent containing ethyl acetate and hexane in a 1:5 ratio) was 0.63, and that of 9-(4-bromophenyl)-10-phenylanthracene was 0.78.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 9-(4-bromophenyl)-10-phenylanthracene | BrC1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C26H17Br
reactant | hexane | CCCCCC | C6H14
product | 9-Phenyl-10-{4-(9-phenyl-9H-fluoren-9-yl)-biphenyl-4′-yl}-anthracene | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C51H34
